US05914339
5-(2-{tert-Butoxycarbonyl-[2-(3-chloro-phenyl)-2-hydroxy-ethyl]-amino}-propyl)-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-isopropoxycarbonyl-methyl ester
The title compound was prepared from 5-(2-{tert-butoxycarbonyl-[2-(3-chloro-phenyl)-2-hydroxy-ethyl]-amino}-propyl)-benzo[1,3]dioxole-2,2-dicarboxylic acid and isopropyl 2-bromoacetate according to the procedure of Example 24, step 3 as a colorless oil: 1H NMR (300 MHz, CDCl3): δ 1.15-1.30 (m, 15H), 1.40 (s, 9H), 2.45-2.70 (m, 2H), 3.06-3.15 (m, 1H), 3.45-3.60 (m, 1H), 4.05-4.18 (m, 2H), 4.70-4.80 (m, 4H), 5.06 (sept, J=6.3 Hz, 2H), 5.46 (brs, 1H), 6.60-6.90 (m, 3H), 7.20-7.35 (m, 3H), 7.41 (s, 1H).; MS (ES) m/z (relative intensity): 722 (M+, 100).

reactant | 5-(2-{tert-butoxycarbonyl-[2-(3-chloro-phenyl)-2-hydroxy-ethyl]-amino}-propyl)-benzo[1,3]dioxole-2,2-dicarboxylic acid | C(C)(C)(C)OC(=O)N(C(CC1=CC2=C(OC(O2)(C(=O)O)C(=O)O)C=C1)C)CC(O)C1=CC(=CC=C1)Cl | C25H28ClNO9
reactant | isopropyl 2-bromoacetate | BrCC(=O)OC(C)C | C5H9BrO2
product | 5-(2-{tert-Butoxycarbonyl-[2-(3-chloro-phenyl)-2-hydroxy-ethyl]-amino}-propyl)-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-isopropoxycarbonyl-methyl ester | C(C)(C)OC(=O)C(C(=O)OC(C)C)OC(=O)C1(OC2=C(O1)C=CC(=C2)CC(C)N(CC(O)C2=CC(=CC=C2)Cl)C(=O)OC(C)(C)C)C(=O)O | C34H42ClNO13
